US06664256B1
Preparation of 6-benzylamino-3,4-bis(4-methoxyphenyl)pyridazine
In a similar manner as in Example 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (300 mg, 0.918 mmol) and benzylamine were reacted as starting materials at 120° C. for 19 hours and post-treatment was then conducted, whereby the title compound was obtained as colorless prisms (365 mg, quantitative). Melting point: 125.4-126.3° C. (ethyl acetate-hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.918 mmol, 300 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 6-benzylamino-3,4-bis(4-methoxyphenyl)pyridazine | C(C1=CC=CC=C1)NC1=CC(=C(N=N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C25H23N3O2
